US04366320
c. 4-(Pentafluorophenyl)-urazole
4-(Pentafluorophenyl)-1-carbethoxysemicarbazide, 2.13 g (0.0068 M), and potassium carbonate, 0.938 g (0.0068 M), are added to 75 ml of water. The mixture is heated at 70° C. under N2 about 12 hours. The solution is cooled in an ice bath and filtered to remove a trace of starting material. The pH of the solution is adjusted to pH 7 with concentrated HCl and extracted with ethyl acetate to remove a product which is less polar than the urazole in the TLC system, chloroform/ethyl acetate/acetic acid (5/5/1). The pH of the solution is reduced to 1 or 2 with concentrated HCl and then extracted with ethyl acetate. About 1/3 of a volume of toluene is added to the ethyl acetate and the solvents evaporated. The resulting crude solid weighs 0.569 g. The product is purified by two crystallizations from ethyl acetate/toluene (1/3 by vol). The yield of purified material is 0.476 g. It is recrystallized from H2O, mp 223°-226°.

reactant | 4-(Pentafluorophenyl)-1-carbethoxysemicarbazide | FC1=C(C(=C(C(=C1NC(NNC(=O)OCC)=O)F)F)F)F | C10H8F5N3O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | 75 ml | O | H2O
product | 4-(Pentafluorophenyl)-urazole | FC1=C(C(=C(C(=C1N1C(NNC1=O)=O)F)F)F)F | C8H2F5N3O2
